US07148226B2
6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyl-3-(pyridin-3-ylmethyl)dihydro-2H-pyran-2,4(3H)-dione
DBU (55 ul, 0.367 mmol) was added to a solution of 6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione (58.6 mg, 0.167 mmol) in benzene (16.0 ml) and acetonitrile (3 ml), under an atmosphere of argon. 3-(chloromethyl)pyridine hydrochloride (27.4 mg, 0.167 mmol) was then added. The reaction mixture was stirred at room temperature for 24 hrs, after which time the mixture was filtered through a plug of Celite. The filtrate was concentrated in vacuo and the residue purified by prep HPLC to afford the title compound as a white solid (8.60 mg).

reactant | DBU | 0.367 mmol, 55 ul | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione | 0.167 mmol, 58.6 mg | ClC=1C=C(C=CC1OC)CCC1(CC(CC(O1)=O)=O)C1CCCC1 | C19H23ClO4
reactant | 3-(chloromethyl)pyridine hydrochloride | 0.167 mmol, 27.4 mg | Cl.ClCC=1C=NC=CC1
solvent | benzene | 16.0 ml | C1=CC=CC=C1 | C6H6
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyl-3-(pyridin-3-ylmethyl)dihydro-2H-pyran-2,4(3H)-dione | 8.60 mg | ClC=1C=C(C=CC1OC)CCC1(CC(C(C(O1)=O)CC=1C=NC=CC1)=O)C1CCCC1 | C25H28ClNO4
